US06509329B1
Synthesis of 2-(3,4,5-Trimethoxyphenyl)benzyl Chloride
2-(3,4,5-Trimethoxyphenyl)benzyl alcohol (630 mg) was dissolved in chloroform (10 mL), and to the solution thionyl chloride (0.153 mL) was added at 0° C. After 30 minutes, the mixture was warmed to room temperature and stirred for 4 hours. The reaction mixture was washed with water and saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was then recrystallized from chloroform-hexane to obtain the title compound.

reactant | 2-(3,4,5-Trimethoxyphenyl)benzyl alcohol | 630 mg | COC=1C=C(C=C(C1OC)OC)C1=C(CO)C=CC=C1 | C16H18O4
reactant | thionyl chloride | 0.153 mL | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(3,4,5-Trimethoxyphenyl)benzyl Chloride | COC=1C=C(C=C(C1OC)OC)C1=C(CCl)C=CC=C1 | C16H17ClO3
